US06034085
Nefazodone HCl was prepared in accordance with Example 2 of U.S. Pat. No. 4,338,317. Nefazodone HCI was dissolved in water with gentle heating (40-45° C.). An equimolar quantity of sodium hydroxide solution (0.1 N) was added with constant stirring while cooling with ice. Nefazodone base precipitated as a sticky gum which was separated and washed repeatedly with water. The base was washed with water until no chloride ions (AgNO3 test) were detected in the washings. Nefazodone base was then dissolved and crystallized from isopropyl alcohol (IPA) to give a solid melting 81-83° C.

reactant | Nefazodone | CCC1=NN(C(=O)N1CCOC=2C=CC=CC2)CCCN3CCN(CC3)C=4C=CC=C(C4)Cl | C25H32ClN5O2
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
solvent | water | O | H2O
product | Nefazodone HCl | CCC1=NN(C(=O)N1CCOC=2C=CC=CC2)CCCN3CCN(CC3)C=4C=CC=C(C4)Cl.Cl | InChI=1S/C25H32ClN5O2.ClH/c1-2-24-27-31(25(32)30(24)18-19-33-23-10-4-3-5-11-23)13-7-12-28-14-16-29(17-15-28)22-9-6-8-21(26)20-22;/h3-6,8-11,20H,2,7,12-19H2,1H3;1H
